US06515055B1
Synthesis of N-amidinobenzamide
A four neck flask (3 liters) equipped with a thermometer and a stirrer was charged with 573.2 g (6.0 mole) of guanidine hydrochloride and 1.5 liter of methanol and cooled to 20° C. Slowly dropwise added thereto was 324.1 g (6.0 mole) of sodium methoxide crystal at 20° C. or lower and stirred for 3 hours. Deposited crystals were filtered off. The mother liquor was charged to the four neck flask (3 liters) equipped with the above devices, and 337.4 g (2.4 mole) of benzoyl chloride was slowly dropwise added at 15° C. or lower and stirred for 12 hours. Deposited crystals were filtered off, and the mother liquor was concentrated under reduced pressure to obtain white crystals. The resulting crystals were sufficiently washed with 3 liters of deionized water and dried under reduced pressure, whereby the intended compound (white crystals) was obtained.

reactant | guanidine hydrochloride | 6.0 mole, 573.2 g | Cl.NC(=N)N
reactant | sodium methoxide | 6.0 mole, 324.1 g | C[O-].[Na+]
reactant | benzoyl chloride | 2.4 mole, 337.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methanol | 1.5 liter | CO | CH4O
product | N-amidinobenzamide | C(N)(=N)NC(C1=CC=CC=C1)=O | C8H9N3O
